* Subcircuit an_pre
.subckt an_pre /bl 
* d:\esim\fossee\esim\library\subcircuitlibrary\an_pre\an_pre.cir
.include PMOS-180nm.lib
m1 vcc /bl gnd vcc CMOSP W=100u L=100u M=1
m2 vcc /bl gnd vcc CMOSP W=100u L=100u M=1
* Control Statements

.ends an_pre